US07632829B2
(rac)-1-[(E)-3-(3,4-Dichloro-phenyl)-acryloyl]-6-methyl-[1,4]diazepan-5-one
In analogy to the procedure described in intermediate 78C, (E)-3,4-dichlorocinnamic acid and 6-methyl-[1,4]diazepan-5-one hydrochloride gave the title compound as a colorless gum, MS: 327.1 (MH+).

reactant | (E)-3,4-dichlorocinnamic acid | ClC=1C=C(/C=C/C(=O)O)C=CC1Cl | C9H6Cl2O2
reactant | 6-methyl-[1,4]diazepan-5-one hydrochloride | Cl.CC1C(NCCNC1)=O
product | (rac)-1-[(E)-3-(3,4-Dichloro-phenyl)-acryloyl]-6-methyl-[1,4]diazepan-5-one | ClC=1C=C(C=CC1Cl)/C=C/C(=O)N1CCNC(C(C1)C)=O | C15H16Cl2N2O2
